US20010056105A1
(d) 6-(5,5, 8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)Nicotinic Acid
In a manner similar to that of Example 7, by reaction of 600 mg (1.36 mmol) of ethyl 6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)nicotinate in 30 ml of THF and 1 g of sodium hydroxide, and after trituration from heptane, 200 mg (36%) of the expected compound are obtained in the form of a yellow solid. m.p.=128° C.

reactant | ethyl 6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)nicotinate | 1.36 mmol, 600 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)[Se]C#CC1=NC=C(C(=O)OCC)C=C1)C | C24H27NO2Se
reactant | heptane | CCCCCCC | C7H16
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 1 g | [OH-].[Na+]
product | 6-(5,5, 8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)Nicotinic Acid | 200 mg, 36% | CC1(C=2C=CC(=CC2C(CC1)(C)C)[Se]C#CC1=NC=C(C(=O)O)C=C1)C | C22H23NO2Se
